US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-hydroxypropan-1-yl)oxybenzamide
A mixture of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-propanon-1-yl)oxybenzamide (1.28 g, 3.7 mmoles) and sodium borohydride (80 mg, 2.1 mmoles) in absolute ethanol (15 ml) was refluxed for 30 minutes, followed by addition of another 50 mg (1.3 mmole) of sodium borohydride and reflux for 10 minutes. The mixture was acidified with 2N HCl and concentrated in vacuo. The residue was partitioned between water and ether, and the ether layer was discarded. The aqueous layer was made basic with Na2CO3 and the solid filtered off to give 0.80 g (77%) of the title compound mp 149°-150°. The NMR spectrum (90 MHz) in CDCl3 gave the following resonances: δ 8.48 (bs, 1H); 8.16 (s, 1H); 6.28 (s, 1H); 4.4-3.4 (m, 7H); 2.64 (m, 6H); 1.26 (d, J=7.5 Hz, 3H); 1.08 (t, 3H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-propanon-1-yl)oxybenzamide | 3.7 mmoles, 1.28 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(C)=O | C16H24ClN3O3
reactant | sodium borohydride | 2.1 mmoles, 80 mg | [BH4-].[Na+]
reactant | sodium borohydride | 1.3 mmole, 50 mg | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-hydroxypropan-1-yl)oxybenzamide | 0.80 g, 77% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(C)O | C16H26ClN3O3
